US05650510
9-(2-(diethylphosphonomethoxy)ethyl)guanine (0.198 g, 0.57 mmol) was dissolved in 15 mL of 1N sodium hydroxide solution and the mixture was stirred at room temperature for 1 hour. The solution was then acidified with 10% aqueous hydrochloric acid to pH 1 and concentrated in vacuo. Residual salts were removed by reverse phase column chromatography (C18 adsorbent, elution with water) to provide 0.150 g of 9-(2-(ethylphosphonomethoxy)ethyl)guanine as a white crystalline solid, mp=192.5°-193.5° C.

reactant | 9-(2-(diethylphosphonomethoxy)ethyl)guanine | 0.57 mmol, 0.198 g | C(C)OP(=O)(OCC)COCCN1C=2N=C(NC(C2N=C1)=O)N | C12H20N5O5P
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1N, 15 mL | [OH-].[Na+]
product | 9-(2-(ethylphosphonomethoxy)ethyl)guanine | 0.150 g | C(C)OP(=O)(O)COCCN1C=2N=C(NC(C2N=C1)=O)N | C10H16N5O5P
